* D:\electro-robot\outils\LTSpice\BC547\fonction-logique-NON.asc
* Generated by LTspice 24.1.7 for Windows.
Q1 VCE N002 0 0 BC547B
R1 N002 Vin 10k
R2 VCE N001 1K
V1 Vin 0 PULSE(0 5 0.25 0.001 0.001 0.5 1 10)
V2 N001 0 5V
.model NPN NPN
.model PNP PNP
.lib C:\Users\bkhro\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10
.backanno
.end
