* D:\electro-robot\outils\LTSpice\transistor\ampli_2N2222.asc
* Generated by LTspice 24.1.7 for Windows.
RE N003 0 2k
RC N001 N002 20k
Q1 N002 Vb N003 0 2N2222
V2 Vin 0 SINE(0 0.5 1K) AC 1 0
V3 N001 0 20V
C1 N004 0 22µ
R1 N001 Vb 220k
R2 Vb 0 20k
C2 Vout N002 .16µ
R3 Vout 0 500Meg
C3 Vb Vin .33µ
R4 N004 N003 10Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\bkhro\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.01 0 0.1
.backanno
.end
